US08242129B2
(E)-2-(3-(3-(4-Hydroxy-3-methylphenyl)-3-oxoprop-1-enyl)phenoxy)acetic acid
Ethyl 2-(3-formylphenoxy)acetate (20.8 g, 0.1 mol) and 4′-hydroxy-3′-methylacetophenone (15.0 g, 0.1 mol) were dissolved in 150 mL of methanol and 50 mL of water. The solution was cooled with an ice-water bath, to which was added potassium hydroxide (21.0 g, 0.375 mol). The reaction mixture was stirred overnight. The resulted mixture was poured on to 600 mL of ice-water, acidified to pH=4-5 with 1 N HCl, and extracted with ethyl acetate (4×200 mL). The combined organic layers were washed with water and brine (200 mL each), dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The obtained yellow oil was dried under high-vacuum, 20 g (64%) of yellowish solid was obtained. 1H NMR (400 MHz, CDCl3): δ 9.95 (s, 1H), 8.40 (br, 1H), 7.80 (s, 1H), 7.65 (m, 2H), 7.22-7.55 (m, 5H), 6.85 (d, 1H), 4.75 (s, 2H), 2.22 (s, 3H). MS (EI): 313 (MH+).

reactant | Ethyl 2-(3-formylphenoxy)acetate | 0.1 mol, 20.8 g | C(=O)C=1C=C(OCC(=O)OCC)C=CC1 | C11H12O4
reactant | 4′-hydroxy-3′-methylacetophenone | 0.1 mol, 15.0 g | OC1=C(C=C(C=C1)C(C)=O)C | C9H10O2
reactant | potassium hydroxide | 0.375 mol, 21.0 g | [OH-].[K+]
reactant | HCl | 1 N | Cl | ClH
solvent | methanol | 150 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | (E)-2-(3-(3-(4-Hydroxy-3-methylphenyl)-3-oxoprop-1-enyl)phenoxy)acetic acid | 20 g, 64% | OC1=C(C=C(C=C1)C(/C=C/C=1C=C(OCC(=O)O)C=CC1)=O)C | C18H16O5
